US08809361B2
5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1″-(5-trifluoromethyl-pyridin-2-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
The title compound is prepared from 5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (HCl salt) and 2-chloro-5-trifluoromethyl-pyridine following a procedure analogous to that described for Example 4. LC (method 1): tR=1.09 min; Mass spectrum (ESI+): m/z=535 [M+H]+.

reactant | 5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | CS(=O)(=O)N1CCC(=CC1)C=1C=C2C(=CN1)OC1(CC3(CCNCC3)C1)C2 | C20H27N3O3S
reactant | 2-chloro-5-trifluoromethyl-pyridine | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
product | 5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1″-(5-trifluoromethyl-pyridin-2-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | CS(=O)(=O)N1CCC(=CC1)C=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C3=NC=C(C=C3)C(F)(F)F)C1)C2 | C26H29F3N4O3S
